US08461182B2
To a CHCl3 (350 mL) solution of tert-butyl 4-aminopiperidine-1-carboxylate (35.0 g), Et3N (122 mL) and 3-chloro-4-fluorobenzoyl chloride (37.1 g) were added under ice cooling and the mixture was stirred at the same temperature for 1.5 hours. To the reaction mixture, a saturated aqueous NaHCO3 solution was added and the solution was extracted three times with CHCl3. The combined organic layers were dried over MgSO4 and concentrated under reduced pressure to obtain tert-butyl 4-[(3-chloro-4-fluorobenzoyl)amino]piperidine-1-carboxylate (62.0 g). To an EtOAc (300 mL) suspension of the compound obtained, a 4 M HCl/EtOAc solution (300 mL) was added and the mixture was stirred at room temperature for 4 hours. The reaction mixture was concentrated under reduced pressure and 1 M aqueous NaOH solution (300 mL) was added to the residue and the solution was extracted three times with CHCl3. The combined organic layers were dried over MgSO4 and concentrated under reduced pressure. The residue was suspended in EtOAc/hexane (200 mL, 1/1; v/v) and the mixture was stirred for one hour. The precipitate was filtrated to obtain 3-chloro-4-fluoro-N-piperidin-4-ylbenzamide (37.7 g, a colorless solid).

reactant | CHCl3 | 350 mL | C(Cl)(Cl)Cl | CHCl3
reactant | tert-butyl 4-aminopiperidine-1-carboxylate | 35.0 g | NC1CCN(CC1)C(=O)OC(C)(C)C | C10H20N2O2
reactant | 3-chloro-4-fluorobenzoyl chloride | 37.1 g | ClC=1C=C(C(=O)Cl)C=CC1F | C7H3Cl2FO
reactant | NaHCO3 | C(=O)(O)[O-].[Na+]
solvent | Et3N | 122 mL | CCN(CC)CC | C6H15N
product | tert-butyl 4-[(3-chloro-4-fluorobenzoyl)amino]piperidine-1-carboxylate | 62.0 g | ClC=1C=C(C(=O)NC2CCN(CC2)C(=O)OC(C)(C)C)C=CC1F | C17H22ClFN2O3
